US05650533
A solution of 4-chloro-2-trifluoromethyliodobenzene (100 g) in ether was added to a suspension of magnesium (8 g) in ether at a such a rate as to maintain the mixture at reflux. The mixture was stirred at reflux for 1 hour and then cooled to 0° C. Carbon dioxide was then passed into the stirred mixture for 3 hours. Hydrochloric acid (2M) was added and the resulting layers separated. The organic layer was washed with water and then extracted into aqueous sodium carbonate solution and this aqueous extract was acidified to pH 1 and extracted with ether. The ether layer was washed with saturated sodium chloride solution, dried (anhydrous magnesium sulphate) and the solvent evaporated to give 4-chloro-2-trifluoromethylbenzoic acid (57.1 g) as a brown solid, m.p. 106.5°-108° C.

reactant | 4-chloro-2-trifluoromethyliodobenzene | 100 g | ClC1=CC(=C(C=C1)I)C(F)(F)F | C7H3ClF3I
reactant | magnesium | 8 g | [Mg] | Mg
reactant | Carbon dioxide | C(=O)=O | CO2
reactant | Hydrochloric acid | 2M | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 4-chloro-2-trifluoromethylbenzoic acid | 57.1 g | ClC1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C8H4ClF3O2
